US06500863B1
To a solution of KOH (6.4 g, 0.11 mol) and hydroxyurethane (12 g, 0.11 mol) in ethanol (50 mL) was added 1,3-dibromopropane (5.8 mL, 0.057 mol). The resulting suspension was heated at reflux for 1 hour. After the mixture was cooled to room temperature, an additional portion of KOH (3.2 g, 0.055 mol) and of dibromopropane (2.9 mL, 0.028 mol) was added. The mixture was then refluxed for 1 hour, cooled to room temperature, and solvent was evaporated. The residue was suspended in boiling ether three times and filtered. The combined filtrates were dried over sodium sulfate, filtered, and evaporated. A portion of 3 g of the crude product was purified by flush column chromatography (EtOAC/Hexane, gradient elution), yielding 1.18 g of N-(ethoxycarbonyl)isoxazolidine. 1 H NMR (CDCl3) δ 1.15(t, 3H), 2.15 (q, 2H), 3.55(t, 2H), 3.8 (t, 2H),4.1(q, 2H).

reactant | KOH | 0.11 mol, 6.4 g | [OH-].[K+]
reactant | hydroxyurethane | 0.11 mol, 12 g | ONC(=O)OCC | C3H7NO3
reactant | 1,3-dibromopropane | 0.057 mol, 5.8 mL | BrCCCBr | C3H6Br2
reactant | KOH | 0.055 mol, 3.2 g | [OH-].[K+]
reactant | dibromopropane | 0.028 mol, 2.9 mL | BrC(C)(C)Br | C3H6Br2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | N-(ethoxycarbonyl)isoxazolidine | 1.18 g | C(C)OC(=O)N1OCCC1 | C6H11NO3
